US04542132
Benzyl bromide (3.1 cm3) was added at room temperature to a stirred solution of 2-[2-(4-pyridyl)ethyl]isothiazolidine-1,1-dioxide (4.9 g) in ethanol (30 cm3) and the mixture was heated under reflux for 3 hours. After cooling to room temperature, water (30 cm3) was added followed by sodium borohydride (1.2 g) and the mixture was stirred for 1 hour. Volatile material was removed in vacuo and the residue was treated with 2M hydrochloric acid to pH1, followed by neutralisation with sodium carbonate solution and subsequent extraction with chloroform (3×100 cm3). The dried (MgSO4) chloroform extract was evaporated to give an oil which was chromatographed on silica ("Merck" 60.9385) eluting with methanol:chloroform, 1:49, to give 2-[2-(1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide as an oil (4.5 g).

reactant | Benzyl bromide | 3.1 cm3 | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-[2-(4-pyridyl)ethyl]isothiazolidine-1,1-dioxide | 4.9 g | N1=CC=C(C=C1)CCN1S(CCC1)(=O)=O | C10H14N2O2S
reactant | water | 30 cm3 | O | H2O
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 2-[2-(1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide | 4.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)CCN1S(CCC1)(=O)=O | C17H24N2O2S
